US06455550B1
4-Amino-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (31.7 mg, 0.083 mmol) and 2-nitrobenzoic acid (38 mg, 0.10 mmol) were reacted as described in example 34 to give 26.7 mg of 4-[[(2-nitrophenyl)carbonyl]amino]-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine, HR-FAB-MS: obs. mass 516.2113. Calcd. mass 516.2134 (M+H).

reactant | 4-Amino-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 0.083 mmol, 31.7 mg | COC([C@@H](NC(=O)C1(CCCC1)CC1=CC=CC=C1)CC1=CC=C(C=C1)N)=O | C23H28N2O3
reactant | 2-nitrobenzoic acid | 0.10 mmol, 38 mg | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1 | C7H5NO4
product | 4-[[(2-nitrophenyl)carbonyl]amino]-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine | 26.7 mg | [N+](=O)([O-])C1=C(C=CC=C1)C(=O)NC1=CC=C(C[C@H](NC(=O)C2(CCCC2)CC2=CC=CC=C2)C(=O)O)C=C1 | C29H29N3O6
